US08168825B2
N-[2,6-dimethyl-4-{1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide (Compound No. I-351)
At room temperature, 2.0 g of 2,6-dimethyl-4-[1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline, 2.7 g of 3-(benzoylamino)benzoyl chloride and 1.2 g of pyridine were introduced to 50 ml of tetrahydrofuran, and the mixture was stirred at room temperature. After the loss of the starting material was confirmed through TLC, a saturated aqueous sodium hydrogen carbonate solution was added to the reaction solution and the solution was stirred for a while. Subsequently, ethyl acetate and water were added to the reaction solution, and phase separation was carried out. The separated organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure and dried, and thus obtained residue was grinded to give 3.4 g (yield 95%) of the title compound as a powder form.

reactant | 2,6-dimethyl-4-[1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 2.0 g | CC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C11H11F6NO
reactant | 3-(benzoylamino)benzoyl chloride | 2.7 g | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)Cl)C=CC1 | C14H10ClNO2
reactant | pyridine | 1.2 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2,6-dimethyl-4-{1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide | 3.4 g, yield 95% | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C)NC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)=O)=O | C25H20F6N2O3
